US04620018
1 mole of pyrocatechol or pyrocatechol derivatives (see Table 1) in a mixture of 500 ml of toluene and 50 ml of dioxane was taken and 1.05 mole of oxalyl chloride were added dropwise at 70° C. Thereafter, the mixture was subsequently stirred until the evolution of gas had ended. After the reaction mixture had cooled to room temperature, it was filtered and the solid product was dried in vacuo. The same results were obtained when diethyl ether or dibutyl ether was used instead of the toluene/dioxane mixture. The starting materials and the results are summarized in Table 1.

reactant | pyrocatechol | 1 mole | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | oxalyl chloride | 1.05 mole | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | dibutyl ether | C(CCC)OCCCC | C8H18O
